US05221676
1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(4-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid
Starting from 1-cyclopropyl 6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid (1.13 g, 4.3 mmol) and 4-(3-pyrrolidinyl)pyridine, a procedure analogous to that given in Example 1 provided the title compound (0.87 g, 52%) as an off-white solid, mp 260°-261° .COPYRGT.C.

reactant | 1-cyclopropyl 6,7-difluoro-1,4-dihydro-4-oxo-3-quinolinecarboxylic acid | 4.3 mmol, 1.13 g | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)F)F)=O)C(=O)O | C13H9F2NO3
reactant | 4-(3-pyrrolidinyl)pyridine | N1CC(CC1)C1=CC=NC=C1 | C9H12N2
product | 1-Cyclopropyl-6-fluoro-1,4-dihydro-4-oxo-7-[3-(4-pyridinyl)-1-pyrrolidinyl]-3-quinolinecarboxylic acid | 0.87 g, 52% | C1(CC1)N1C=C(C(C2=CC(=C(C=C12)N1CC(CC1)C1=CC=NC=C1)F)=O)C(=O)O | C22H20FN3O3
